US05571821
B. 4-propylphenyl boronic acid
To a suspension of magnesium shavings (217 mg, 8.9 mmol) in 3 mL of dry tetrahydrofuran under argon, a crystal along with a solution of 4-bromopropylbenzene (1.69 g, 8.5 mmol) dissolved in 6 mL of tetrahydrofuran was added at such a rate that a gentle reflux was maintained. The solution was refluxed for an additional 0.5 h, cooled to room temperature and added in portions over 10 minutes to a solution of trimethylborate (924 mg, 8.9 mmol) previously dissolved in 4 mL of dry ether at -78° C. After 30 minutes, the solution was warmed to room temperature where stirring continued for 90 minutes, then the reaction was quenched by the addition of 2 mL of a 10% hydrochloric acid solution. The tetrahydrofuran was removed under reduced pressure and the remaining residue was extracted into diethyl ether (3×25 mL). The combined ether extracts was extracted with 1M NaOH (3×25 mL) and the resulting aqueous layer was acidified to pH 2.0 using 6N HCl, then reextracted back into diethyl ether (3×25 mL). The combined organic layers was washed with water (1×25 mL), brine (1×25 mL) and dried over magnesium sulfate. Evaporation of solvent left a brown solid which was filtered through a small plug of silica gel using 11.0 MeOH/CACl3. Evaporation left 448 mg (32%) of a brown solid, m.p. 90°-93° C.

reactant | magnesium | 8.9 mmol, 217 mg | [Mg] | Mg
reactant | 4-bromopropylbenzene | 8.5 mmol, 1.69 g | BrCCCC1=CC=CC=C1 | C9H11Br
reactant | trimethylborate | 8.9 mmol, 924 mg | COB(OC)OC | C3H9BO3
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | ether | 4 mL | CCOCC | C4H10O
product | 4-propylphenyl boronic acid | C(CC)C1=CC=C(C=C1)B(O)O | C9H13BO2
